US08530503B2
3-(3-methylpyridin-4-yl)-5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazole
To a solution of 4-phenyl-5-(trifluoromethyl)-2-thiophenecarboxylic acid (200 mg, 0.735 mmol) in DMF were added under nitrogen atmosphere EDCI (183 mg, 0.95 mmol) and HOBt (129 mg, 0.95 mmol). The reaction was stirred at room temperature for 30 min followed by addition of N-hydroxyimidamide (143 mg, 0.95 mmol), the reaction was stirred for 30 min at room temperature followed by 16 h at 95° C. The reaction was concentrated under reduced pressure. The crude was diluted with EtOAc (80 mL) and washed with a saturated solution of NaHCO3 (2×50 ml). The organic phase was dried over Na2SO4 and concentrated under reduced pressure. The product was purified by column chromatography using CH2Cl2:MeOH (9:1) to yield 161 mg (56.6%) of the product. MS (EI) m/z: 412 (M+)

reactant | 4-phenyl-5-(trifluoromethyl)-2-thiophenecarboxylic acid | 0.735 mmol, 200 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)O | C12H7F3O2S
reactant | EDCI | 0.95 mmol, 183 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.95 mmol, 129 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | CN(C)C=O | C3H7NO
product | 3-(3-methylpyridin-4-yl)-5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazole | 161 mg, 56.6% | CC=1C=NC=CC1C1=NOC(=N1)C=1SC(=C(C1)C1=CC=CC=C1)C(F)(F)F | C19H12F3N3OS
